US05633248
Ethyl 5-cyano-4,4-diphenylpentanoate
To a solution of ethyl 5-cyano-4,4-diphenyl-2-pentenoate (0.7 g) in ethanol (20 ml) was added 10% palladium-on-carbon (0.24 g), and the mixture was subjected to catalytic hydrogenation at atmospheric pressure and temperature. The catalyst in the reaction mixture was filtered off and the filtrate was concentrated to dryness. The group was purified by silica gel column chromatography to provide the title compound (0.6 g) as colorless oil.

reactant | ethyl 5-cyano-4,4-diphenyl-2-pentenoate | 0.7 g | C(#N)CC(C=CC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H19NO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.24 g | [Pd] | Pd
product | Ethyl 5-cyano-4,4-diphenylpentanoate | 0.6 g | C(#N)CC(CCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H21NO2
